US07812040B2
2-Methoxy-5-(pyrrolidin-1-ylmethyl)phenol.
NaB(OAc)3H (32 g, 0.15 mol) was added in portions for 15 min to a mixture of pyrrolidine (9.1 mL, 0.11 mol) and 4-methoxy-5-hydroxybenzaldehyde (15.2 g, 0.1 mol) in CH2Cl2 (100 mL) under vigorous stirring and cooling with an ice bath in an atmosphere of argon Ar. The mixture was stirred for 20 h and cooled with an ice bath. Concentrated HCl (21 mL) was added. The organic layer was separated and discarded. The aqueous one was alkalized with K2CO3 to pH 9 (60 mL) and extracted with chloroform (3×100 mL). The combined extracts were dried with Na2SO4, and evaporated to give the title compounds (17.6 g, 85%) as white crystals. LCMS-data: 208.1 and 209.1 (M+H)+, (calculated for C12H17NO2 207.1). 1H NMR (400 MHz)-data (DMSO-d6, J, Hz): 8.81 (br s, 1H, OH); 6.80 (d, 1H, ArH, J=8.3 Hz); 6.73 (d, 1H, ArH, J=2 Hz); 6.65 (dd, 1H, ArH, J1=2 Hz, J2=8 Hz); 3.72 (s, 3H, OCH3); 3.40 (s, 2H, CH2Ar); 2.41-2.33 (m, 4H, CH2CH2CH2CH2); 1.70-1.62 (m, 4H, CH2CH2CH2CH2,).

reactant | NaB(OAc)3H | 0.15 mol, 32 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | pyrrolidine | 0.11 mol, 9.1 mL | N1CCCC1 | C4H9N
reactant | 4-methoxy-5-hydroxybenzaldehyde | 0.1 mol, 15.2 g | COC1=CC=C(C=O)C=C1O | C8H8O3
reactant | HCl | 21 mL | Cl | ClH
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-Methoxy-5-(pyrrolidin-1-ylmethyl)phenol | 17.6 g, 85% | COC1=C(C=C(C=C1)CN1CCCC1)O | C12H17NO2
